US08212032B2
step 2: cis-4-({4-[(2-hydroxyethyl)amino}-6-methyl-1,3,5-triazin-2-yl]amino)-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide
A mixture of cis-4-[(4-chloro-6-methyl-1,3,5-triazin-2-yl)amino]-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide (70 mgs, 0.16 mmol, 1.0 equiv), 2-aminoethanol (15 mgs, 0.25 mmol, 1.5 equiv), and potassium carbonate (34 mgs, 0.25 mmol, 1.0 equiv) in acetonitrile (3 ml) was heated to reflux for 16 h. The solvent was removed under reduced pressure, and the residue was extracted with CH2Cl2 and washed with water. The organic layer was dried over sodium sulfate and concentrated. The residue was purified via reverse-phase HPLC purification to afford the title compound. MS (ES+): m/e 453.3 [M+H]+.

reactant | cis-4-[(4-chloro-6-methyl-1,3,5-triazin-2-yl)amino]-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide | 0.16 mmol, 70 mgs, 1.0 equiv | ClC1=NC(=NC(=N1)C)N[C@H]1CC[C@H](CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C19H21ClF3N5O
reactant | 2-aminoethanol | 0.25 mmol, 15 mgs, 1.5 equiv | NCCO | C2H7NO
reactant | potassium carbonate | 0.25 mmol, 34 mgs, 1.0 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | cis-4-({4-[(2-hydroxyethyl)amino}-6-methyl-1,3,5-triazin-2-yl]amino)-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide | OCCNC1=NC(=NC(=N1)C)N[C@H]1CC[C@H](CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C21H27F3N6O2
